US04345084
A mixture of (Z,Z)-undecadien-1-ol (3.42 g, 20.4 mmol) and triphenylphosphine (7.5 g, 28.6 mmol) in dry CCl4 (25 ml) was refluxed with stirring for 9 h. The reaction mixture was allowed to cool to 23° C., hexane (60 ml) was added, and stirring was continued for an additional 10 minutes. The precipitate of triphenylphosphine oxide was filtered and washed with hexane. The solvent was removed from the combined filtrate at 40° C./~30 mmHg. Evaporation distillation of the resulting residue at 125°-130° C./0.3 mmHg gave 3.5 g (92%) of (Z,Z)-1-chloro-2,5-undecadiene as a colorless liquid.

reactant | (Z,Z)-undecadien-1-ol | 20.4 mmol, 3.42 g | C(=C/C=C\CCCCCCC)/O | C11H20O
reactant | triphenylphosphine | 28.6 mmol, 7.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hexane | 60 ml | CCCCCC | C6H14
reactant | CCl4 | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | (Z,Z)-1-chloro-2,5-undecadiene | 3.5 g, 92% | ClC\C=C/C\C=C/CCCCC | C11H19Cl
